US05250572
A. Preparation of (R)-3-phthalimido-1-phenylpropanol.
To a solution of 10.09 g of (R)-(+)-3-chloro-1-phenylpropanol in 80 ml of dimethylformamide were added 13.14 g of potassium phthalimide in 80 ml of dimethylformamide. The mixture was heated at 100° C. for 8 hours, allowed to cool to room temperature, and filtered. The filtrate was diluted with water, and the solution extracted 3 times with ethyl acetate. The combined organic extracts were washed once with water, once with 0.2 N sodium hydroxide, once again with water, and once with a saturated solution of sodium chloride, dried over sodium sulfate, and concentrated in vacuo to provide an opaque oil that solidified. Crystallization from ethyl acetate/hexanes provided 11.09 g of the title intermediate as clear pale yellow needles, m.p. 81°-83° C.

reactant | (R)-(+)-3-chloro-1-phenylpropanol | 10.09 g | ClCC[C@@H](O)C1=CC=CC=C1 | C9H11ClO
reactant | potassium phthalimide | 13.14 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | (R)-3-phthalimido-1-phenylpropanol | 11.09 g | C1(C=2C(C(N1CC[C@@H](O)C1=CC=CC=C1)=O)=CC=CC2)=O | C17H15NO3
